US06043254
(a) 3-[(Z)-1-(4-bromo-anilino)-1-phenylmethylidene]-5-nitro-2-indolinone
Prepared by reacting 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone with 1.5 equivalents of 4-bromo-aniline in DMF (110° C., for 2 hours), subsequent treatment with piperidine (20° C., 0.5 hours) and precipitation with water.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OCC)=O | C19H16N2O5
reactant | 4-bromo-aniline | 1.5 equivalents | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[(Z)-1-(4-bromo-anilino)-1-phenylmethylidene]-5-nitro-2-indolinone | BrC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC=C(C=C23)[N+](=O)[O-])=O)C=C1 | C21H14BrN3O3
